US04346110
A solution of ethyl 2-(tert-butoxycarbonylamino)-3-(3'-tetrahydropyranyloxyphenyl)-3-butenoate (0.40 g) in dimethoxyethane (10 ml) and water (2 ml) is treated with solid lithium hydroxide monohydrate (0.02 g). After stirring for 2 hours at room temperature, the mixture is diluted with water and acidified with 0.1 N hydrochloric acid to ca pH 4. Extraction with ether gives essentially pure racemic 2-(tert-butoxycarbonylamino)-3-(3'-tetrahydropyranyloxyphenyl)-3-butenoic acid (0.25 g): colorless solid.

reactant | ethyl 2-(tert-butoxycarbonylamino)-3-(3'-tetrahydropyranyloxyphenyl)-3-butenoate | 0.40 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(=C)C1=CC(=CC=C1)OC1OCCCC1 | C22H31NO6
reactant | lithium hydroxide monohydrate | 0.02 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 0.1 N | Cl | ClH
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | water | 2 ml | O | H2O
product | racemic 2-(tert-butoxycarbonylamino)-3-(3'-tetrahydropyranyloxyphenyl)-3-butenoic acid | 0.25 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C(=C)C1=CC(=CC=C1)OC1OCCCC1 | C20H27NO6
